'switch capacitor filter.  Use tr 0 50u .1u.  Gen freq 100k
Vin   1  0  generator( 1. ) 
C1   1  2  1.p
Y1   2  3  pulse iv=20u pv=0 delay=500n period=1u
Y2   3  0  pulse iv=0 pv=20u delay=500n period=1u
C2   3  0  1.p ic=0.
.gen freq=100k
.print tran v(nodes) control(0) iter(0)
.tran 0 50u .1u
.status notime
.end

